US07423159B2
A mixture of 4-fluoro-N-methylbenzohydrazide (5.0 g), ethyl acetoacetate (4.84 g) and ethanol (140 ml) was stirred for 14 hrs. with heating under reflux. The reaction mixture was concentrated, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give an oil from a fraction eluted with hexane-ethyl acetate (4:1-1:1, v/v). This oil was dissolved in ethanol (50 ml), 1,8-diazabicyclo[5.4.0]-7-undecene (0.5 ml) was added, and the mixture was stirred for 4 hrs. with heating under reflux. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give ethyl 5-(4-fluorophenyl)-1,3-dimethyl-1H-pyrazole-4-carboxylate (3.41 g, yield 44%) as colorless crystals.

reactant | 4-fluoro-N-methylbenzohydrazide | 5.0 g | FC1=CC=C(C(=O)N(N)C)C=C1 | C8H9FN2O
reactant | ethyl acetoacetate | 4.84 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | ethyl 5-(4-fluorophenyl)-1,3-dimethyl-1H-pyrazole-4-carboxylate | 3.41 g, yield 44% | FC1=CC=C(C=C1)C1=C(C(=NN1C)C)C(=O)OCC | C14H15FN2O2
